US07074798B2
a) 4-[7-(2-Butynyl)-1-(2-hydroxyethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[3-Methyl-7-(2-butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (0.30 g) and potassium carbonate (0.21 g) were dissolved in N,N-dimethylformamide (10 ml), and 2-(2-bromoethoxy)tetrahydro-2H-pyran (0.23 ml) was added thereto. After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate, washed with water, and dried over magnesium sulfate. After removing the solvent by distillation, ethanol (10 ml) and pyridinium p-toluenesulfonate (60 mg) were added to the resulting residue, and the reaction mixture was stirred at 60° C. for 3 hours. The reaction solution was distilled. The residue was purified by silica gel column chromatography to obtain 0.14 g of the title compound from a fraction eluted with hexane-ethyl acetate (1:5).

reactant | 4-[3-Methyl-7-(2-butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.30 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC#CC)=O)=O)C | C19H26N6O4
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 0.23 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-Butynyl)-1-(2-hydroxyethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)CCO)=O)C | C21H30N6O5
